US08791142B2
Step 3) methyl (2S,4R)-4-(tert-butyldimethylsilyloxy)-1-(3-chloro-5-(N′-hydroxycarbamimidoyl)pyridin-2-yl)pyrrolidine-2-carboxylate
A solution of methyl (2S,4R)-4-(tert-butyldimethylsilyloxy)-1-(3-chloro-5-cyanopyridin-2-yl)pyrrolidine-2-carboxylate (0.306 g; 0.77 mmol), hydroxylamine hydrochloride (0.064 g; 0.92 mmol) and DIEA (0.176 mL; 1.01 mmol) in EtOH/DCM (4 mL/2 mL) was stirred at ambient temperature for 96 hours. The solvent was evaporated in vacuo and the residue dissolved in DCM/water. The mixture was passed through a hydrophobic frit and the solvent evaporated in vacuo to afford the title product (0.335 g, 100%). 1H NMR (CDCl3, 400 MHz) δ 8.22 (1H, d, J=2 Hz), 7.76 (1H, d, J=1.6 Hz), 6.60 (1H, br s), 4.87-4.83 (1H, m), 4.73 (2H, br s), 4.54-4.53 (1H, m), 4.26-4.22 (1H, m), 3.75-3.67 (4H, m), 2.26-2.20 (1H, m), 2.09-2.02 (1H, m), 0.85 (9H, s), 0.05-0.08 (6H, m).

reactant | methyl (2S,4R)-4-(tert-butyldimethylsilyloxy)-1-(3-chloro-5-cyanopyridin-2-yl)pyrrolidine-2-carboxylate | 0.77 mmol, 0.306 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C1=NC=C(C=C1Cl)C#N)C(=O)OC | C18H26ClN3O3Si
reactant | hydroxylamine hydrochloride | 0.92 mmol, 0.064 g | Cl.NO
reactant | DIEA | 1.01 mmol, 0.176 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH DCM | 4 mL | CCO.C(Cl)Cl
product | methyl (2S,4R)-4-(tert-butyldimethylsilyloxy)-1-(3-chloro-5-(N′-hydroxycarbamimidoyl)pyridin-2-yl)pyrrolidine-2-carboxylate | 0.335 g, 100% | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C1=NC=C(C=C1Cl)C(N)=NO)C(=O)OC | C18H29ClN4O4Si
